US07494994B2
Step A: tert-Butyl 4-[(3-bromophenyl)sulphonyl]piperazine-1-carboxylate
Identical procedure to Step A of Example 1, but the morpholine is replaced by tert-butyl piperazine-1-carboxylate and the 4-iodobenzenesulphonyl chloride by 3-bromobenzenesulphonyl chloride.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 4-iodobenzenesulphonyl chloride | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | 3-bromobenzenesulphonyl chloride | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
product | tert-Butyl 4-[(3-bromophenyl)sulphonyl]piperazine-1-carboxylate | BrC=1C=C(C=CC1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21BrN2O4S
